US04814343
alpha-(6-Chloro-2,2-dimethyl-4H-1,3-benzodioxin-8-yl)-5-methyl-1-triphenylmethyl-1H-imidazole-4-methanol
Starting from 8-bromo-6-chloro-2,2-dimethyl-4H-1,3-benzodioxin and 5-methyl-1-triphenylmethyl-1H-imidazole-4-carboxaldehyde. The addition of the organomagnesium compound is carried out at 0° C. Yield: 50% of theory;

reactant | 8-bromo-6-chloro-2,2-dimethyl-4H-1,3-benzodioxin | BrC1=CC(=CC2=C1OC(OC2)(C)C)Cl | C10H10BrClO2
reactant | 5-methyl-1-triphenylmethyl-1H-imidazole-4-carboxaldehyde | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=O | C24H20N2O
product | alpha-(6-Chloro-2,2-dimethyl-4H-1,3-benzodioxin-8-yl)-5-methyl-1-triphenylmethyl-1H-imidazole-4-methanol | Yield: 50% | ClC1=CC2=C(OC(OC2)(C)C)C(=C1)C(O)C=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H31ClN2O3
